US07141583B2
(5R)-3-(4-t-Butylphenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one
(5R)-3-(4-t-Butylphenyl)-5-azidomethyloxazolidin-2-one (400 mg, 1.46 mM) was dissolved in dioxane (8 ml), treated with norbornadiene (1.3 g, 14.1 mM) and heated under reflux for 6 hours. After removal of the solvent, the residue was dissolved ethyl acetate, and purified by flash chromatography on silica, eluting with the same solvent. Relevant fractions were combined to give the desired product (260 mg, mp 140–142°). MS (EI): 300 (M+) for C16H20N4O2

reactant | (5R)-3-(4-t-Butylphenyl)-5-azidomethyloxazolidin-2-one | 1.46 mM, 400 mg | C(C)(C)(C)C1=CC=C(C=C1)N1C(O[C@H](C1)CN=[N+]=[N-])=O | C14H18N4O2
reactant | norbornadiene | 14.1 mM, 1.3 g | C12=CC=C(CC1)C2 | C7H8
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | (5R)-3-(4-t-Butylphenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | 260 mg | C(C)(C)(C)C1=CC=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O | C16H20N4O2
